US09278968B2
To a solution of 35 mg of methyl 4-{2-[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]-1-hydroxypropan-2-yl}benzoate in 1.4 ml of THF were added dropwise 0.17 ml of a 1 M diisobutylaluminum hydride/toluene solution at −78° C., followed by stirring at 0° C. for 3 hours. To the reaction mixture was added 0.14 ml of a 1 M diisobutylaluminum hydride/toluene solution at 0° C., followed by stirring for 1 hour. To the reaction mixture was added a saturated aqueous Rochelle salt solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated. The residue was purified by silica gel column chromatography to obtain 20 mg of 8-[(2,6-difluorobenzyl)oxy]-N-{1-hydroxy-2-[4-(hydroxymethyl)phenyl]propan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | methyl 4-{2-[({8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}carbonyl)amino]-1-hydroxypropan-2-yl}benzoate | 35 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C3=CC=C(C(=O)OC)C=C3)C(=CC=C1)F | C27H25F2N3O5
reactant | diisobutylaluminum hydride toluene | 1 M | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | diisobutylaluminum hydride toluene | 1 M | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 1.4 ml | C1CCOC1 | C4H8O
product | 8-[(2,6-difluorobenzyl)oxy]-N-{1-hydroxy-2-[4-(hydroxymethyl)phenyl]propan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 20 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C3=CC=C(C=C3)CO)C(=CC=C1)F | C26H25F2N3O4
